US07812025B2
(2) 4-[3-(3-Furyl)phenyl]-N-pyridin-3-ylpiperazine-1-carboxamide
A mixed solution of 2,2,2-trichloroethyl pyridin-3-ylcarbamate (279 mg, 1.04 mmol), 1-[3-(3-furyl)phenyl]piperazine (215 mg, 0.942 mmol) and diisopropylethylamine (0.328 ml, 1.88 mmol) in dimethylsulfoxide (3.0 ml) was stirred at 70° C. for 3 days. Water was poured into the reaction solution, and extracted with ethyl acetate. The extract was washed with water, dried over anhydrous magnesium sulfate, and the solvent was distilled away under reduce pressure. The residue was purified by silica gel column chromatography (ethyl acetate), and recrystallized from a mixed solvent of hexane and ethyl acetate to give the titled compound 147 mg (44.7%) as solid product.

reactant | 2,2,2-trichloroethyl pyridin-3-ylcarbamate | 1.04 mmol, 279 mg | N1=CC(=CC=C1)NC(OCC(Cl)(Cl)Cl)=O | C8H7Cl3N2O2
reactant | 1-[3-(3-furyl)phenyl]piperazine | 0.942 mmol, 215 mg | O1C=C(C=C1)C=1C=C(C=CC1)N1CCNCC1 | C14H16N2O
reactant | diisopropylethylamine | 1.88 mmol, 0.328 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | dimethylsulfoxide | 3.0 ml | CS(=O)C | C2H6OS
product | 4-[3-(3-Furyl)phenyl]-N-pyridin-3-ylpiperazine-1-carboxamide | 147 mg, 44.7% | O1C=C(C=C1)C=1C=C(C=CC1)N1CCN(CC1)C(=O)NC=1C=NC=CC1 | C20H20N4O2
